US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine but substituting 2-bromopyrimidine and starting with N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.15, 1.30, 2.43, 2.69, 3.53, 3.78, 3.87, 3.99, 4.04, 4.27, 4.91, 5.27, 6.61, 6.97, 7.56, 8.41; IR (diffuse reflectance) 2398 (w), 2352 (w), 2307 (w), 2214 (w), 2173 (w), 1584 (s), 1569, 1549 (s), 1508 (s), 1476 (s), 1397, 1341, 1277, 1175, 1137 (s) cm−1 HRMS (ESI) calcd for C25H30N7O2F3+H1 518.2491. found 518.2479.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C(F)(F)F)CC | C21H28F3N5O2
product | N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-[6-methoxy-2-(trifluoromethyl)pyridin-3-yl]pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C(F)(F)F)CC | C25H30F3N7O2
